US08912188B2
To a solution of methyl 2-(6-fluoropyridin-3-yl)-3-(isopropyl(methyl)amino)quinoxaline-6-carboxylate (130 mg, 0.37 mmol) in tetrahydrofuran (10 mL) was added LiOH.H2O (35 mg, 0.83 mmol) and water (1 mL). After stirring overnight at room temperature, the reaction mixture was concentrated under reduced pressure to afford a residue, which was dissolved in water (10 mL), adjusted the pH value to 6 with hydrochloric acid (1N). The solid was precipitated and filtered to afford 2-(6-fluoropyridin-3-yl)-3-(isopropyl(methyl)amino)quinoxaline-6-carboxylic acid as a light yellow solid (81.6 mg, 65%).

reactant | methyl 2-(6-fluoropyridin-3-yl)-3-(isopropyl(methyl)amino)quinoxaline-6-carboxylate | 0.37 mmol, 130 mg | FC1=CC=C(C=N1)C1=NC2=CC=C(C=C2N=C1N(C)C(C)C)C(=O)OC | C19H19FN4O2
reactant | LiOH.H2O | 0.83 mmol, 35 mg | O[Li].O
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | water | 10 mL | O | H2O
solvent | water | 1 mL | O | H2O
product | 2-(6-fluoropyridin-3-yl)-3-(isopropyl(methyl)amino)quinoxaline-6-carboxylic acid | 81.6 mg, 65% | FC1=CC=C(C=N1)C1=NC2=CC=C(C=C2N=C1N(C)C(C)C)C(=O)O | C18H17FN4O2
